US07674795B2
The procedure used in Example 6 is followed. In a 100 ml autoclave, dissolve 1 g of 4-(6-methyl-1H-benzimidazol-2-yl)-9H-fluoren -9-one oxime (Z,E), obtained in the previous stage, in a mixture of 40 ml of ethanol and 40 ml of tetrahydrofuran, add a spatula of Raney activated nickel and then subject to an initial hydrogen pressure of 1 bar and heat the autoclave at 60° C. for 3 hours. After cooling, the volume of hydrogen absorbed is 142 ml. After filtration of the catalyst over Celite, the filtrate is concentrated under reduced pressure and then taken up in petroleum ether and filtered. In this way, we obtain 720 mg of 4-(6-methyl-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine, in the form of a beige solid, which is used as it is in the following stage, with the following characteristic:

reactant | hydrogen | [H][H] | H2
reactant | 4-(6-methyl-1H-benzimidazol-2-yl)-9H-fluoren -9-one oxime | 1 g | CC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C1 | C21H15N3O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | nickel | [Ni] | Ni
product | 4-(6-methyl-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine | 720 mg | CC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C1 | C21H17N3
